US05100900
5-Hydroxymethyl-3-phenyl-quinoline
80 g (0.32 mol) of 3-phenyl-quinoline-5-carboxylic acid are suspended in 1.6 l of abs. tetrahydrfuran under argon and 400 ml of 1 molar lithium aluminum hydride solution in tetrahydrofuran are added dropwise. In this process, the temperature may rise to 35° C. The mixture is subsequently stirred for 90 minutes and 16 ml of water and then 48 ml of saturated ammonium chloride solution are added dropwise with cooling, the mixture is subsequently stirred for 30 minutes and filtered with suction, the solid is washed with tetrahydrofuran and the filtrate is concentrated. About 80 g of crude product are obtained. The melting point of the purified compound is 110°-112° C.

reactant | 3-phenyl-quinoline-5-carboxylic acid | 0.32 mol, 80 g | C1(=CC=CC=C1)C=1C=NC=2C=CC=C(C2C1)C(=O)O | C16H11NO2
reactant | lithium aluminum hydride | 1 molar, 400 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 16 ml | O | H2O
reactant | ammonium chloride | 48 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-Hydroxymethyl-3-phenyl-quinoline | 80 g | OCC1=C2C=C(C=NC2=CC=C1)C1=CC=CC=C1 | C16H13NO
